US08709994B2
LiAlH4 (16 g, 0.42 mol, 1.2 eq) and diethyl ether (450 mL) were charged into a 2 L three-necked round-bottom flask equipped with a mechanical stirrer and a reflux condenser and cooled at 0° C. The crude 3-(3-methylcyclohexyl)propanoic acid (60 g, 0.35 mol) was dissolved in diethyl ether (400 mL) and added dropwise to the reaction flask. The reaction mixture was then stirred for 3 h at ambient temperature. The excess of lithium aluminium hydride was hydrolyzed with saturated aqueous sodium sulphate and the mixture filtered. THF (1 L) was added to the residue and the suspension was heated to 35° C. for 1 h. The suspension was filtered and the combined organic layers were dried over sodium sulphate and evaporated to yield the crude product as an oil. Chromatography on a silica gel column with 8% EtOAc in hexane as elution agent, followed by a bulb-to-bulb distillation (0.1 mBar, 140° C.) gave pure 3-(3-methylcyclohexyl)propan-1-ol (35 g, gc purity>98%; yield=61%).

reactant | LiAlH4 | 0.42 mol, 16 g, 1.2 eq | [H-].[H-].[H-].[H-].[Li+].[Al+3]
reactant | 3-(3-methylcyclohexyl)propanoic acid | 0.35 mol, 60 g | CC1CC(CCC1)CCC(=O)O | C10H18O2
reactant | lithium aluminium hydride | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | sodium sulphate | S(=O)(=O)([O-])[O-].[Na+].[Na+]
solvent | diethyl ether | 400 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 450 mL | C(C)OCC | C4H10O
product | 3-(3-methylcyclohexyl)propan-1-ol | 35 g, yield=61% | CC1CC(CCC1)CCCO | C10H20O
